US04431653
A solution of the dihydrochloride salt of 4-(4,5-dihydro-1H-imidazol-2-yl)piperidine (0.99 g, 0.0044 M) in methanol (10 ml) which contained sodium methoxide (0.009 M) was stirred at room temperature for 10 minutes and dimethylformamide dimethylacetal (10 ml) was added and refluxed at 80° C. for 8 hrs. The excess of dimethylformamide dimethylacetal was removed to give 4-(4,5-dihydro-1H-imidazol-2-yl)-1-piperidinecarboxaldehyde dimethylacetal. To a mixtue of 6-aminopenicillanic acid (0.785 g, 0.0035 M) and diisopropyl ethylamine (0.412 ml) in dry chloroform was added the chloroform solution (30 ml) of the above piperidinecarboxaldehyde dimethyl acetal at 0° C. The reaction was stirred at 0° C. for 1 hr and at room temperature for 3 hrs. After this period, the solvent was removed in vacuo and the residue was dissolved in water (40 ml). The aqueous solution washed with ethylacetate was acidified to pH 3 with dil HCl and purified on Sephadex LH 20 columns to give [2S-(2alpha,5alpha,6beta)]-6-[[[4-(4,5-dihydro-1H-imidazol-2yl)-1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid hydrochloride (0.21 g, 11.5% yield).

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 4-(4,5-dihydro-1H-imidazol-2-yl)piperidine | 0.0044 M, 0.99 g | N1C(=NCC1)C1CCNCC1 | C8H15N3
reactant | sodium methoxide | 0.009 M | C[O-].[Na+]
reactant | dimethylformamide dimethylacetal | 10 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | 10 ml | CO | CH4O
product | 4-(4,5-dihydro-1H-imidazol-2-yl)-1-piperidinecarboxaldehyde dimethylacetal | COC(N1CCC(CC1)C=1NCCN1)OC | C11H21N3O2
